US05481038
N,N-Diisopropyl-sec-butylamine
A solution of 2-(diisopropylamino)propionitrile (25.00 g, 0.162 mol) in diethyl ether (20 ml) was added dropwise to a 1M solution of ethyl magnesium bromide in diethyl ether (32.4 ml, 0.324 mol) and the mixture was refluxed for 30 min. Water (25 ml) was added and white precipitate was filtered off and washed with diethyl ether (2×100 ml). The ether solutions were combined, dried over anhydrous magnesium sulfate and the product was isolated by distillation: 13.80 g, 51%, bp 60°-62° C./20 mm Hg. 1H NMR CDCl3 δ ppm, 0.85 (t, J=6.5 Hz, 3H, CH3) , 0.98 (d, J=6.5 Hz, 6H, CH3) 0.99 (d, J=6.5 Hz, 3H, CH3), 1.05 (d, J=6.5 Hz, 6H, CH3) , 1.17-1.44(m, 2H, CH2), 2.70 (m, 1H, CH), 3.08 (sep, J=6.5 Hz, 2H, CH).

reactant | 2-(diisopropylamino)propionitrile | 0.162 mol, 25.00 g | C(C)(C)N(C(C#N)C)C(C)C | C9H18N2
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | Water | 25 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 0.324 mol, 32.4 ml | C(C)OCC | C4H10O
product | N,N-Diisopropyl-sec-butylamine | C(C)(C)N(C(C)C)C(C)CC | C10H23N
